US07183436B2
Starting with 38 ml 1.0 molar 4-chlorophenyl magnesium chloride solution in diethylether, 4.00 g 8-dimethylamino-1,4-dioxaspiro[4.5]decane-8-carbonitrile, dissolved in 60 ml diethylether, were added dropwise and stirred overnight at ambient temperature. To work up the mixture, 30 ml ammonium chloride solution (20% by weight) were added with ice cooling, the phases were separated, the ethereal phase was washed in succession with 30 ml water and saturated sodium chloride solution, dried over sodium sulfate, filtered, concentrated and substantially freed of solvent residues under vacuum. The crude [-(4-chlorophenyl)-1,4-dioxaspiro[4.5]dec-8-yl]dimethylamine (4.18 g) obtained was initially stirred for 24 hours with a mixture of 10 ml concentrated hydrochloric acid (32% by weight) and 6.0 ml water at ambient temperature without further purification and then heated for 3 hours to reflux. Subsequently, the reaction mixture was first washed three times with 50 ml diethylether in each case, then made basic by addition of concentrated ammonia solution (25% by weight) with ice cooling, extracted three times with 100 ml diethylether in each case, the combined diethylether extracts were dried over sodium sulfate, filtered, concentrated and substantially freed of solvent residues under vacuum. 3.84 g 4-(4-chlorophenyl)-4-dimethylaminocyclohexanone were obtained as a brown oil.

reactant | 4-chlorophenyl magnesium chloride | 1.0 molar, 38 ml | ClC1=CC=C(C=C1)[Mg]Cl
reactant | 8-dimethylamino-1,4-dioxaspiro[4.5]decane-8-carbonitrile | 4.00 g | CN(C1(CCC2(OCCO2)CC1)C#N)C | C11H18N2O2
reactant | ammonium chloride | 30 ml | [Cl-].[NH4+]
solvent | diethylether | C(C)OCC | C4H10O
solvent | diethylether | 60 ml | C(C)OCC | C4H10O
product | [-(4-chlorophenyl)-1,4-dioxaspiro[4.5]dec-8-yl]dimethylamine | 4.18 g | ClC1=CC=C(C=C1)C1OC2(OC1)CCC(CC2)N(C)C | C16H22ClNO2
